US06022822
(4) Synthesis of tricyclohexyl [o-(1-hydroxyethyl)phenyl]tin
10.1 g of o-bromo-1-phenylethanol (50.2 mmol) and 50 ml of diethylether were mixed together in a 500 ml two-neck flask, which was equipped with a stirrer and isobaric dropping funnel. To this mixture, 64.5 ml of hexane solution of n-butyl lithium was gradually added dropwise at -78° C. Subsequently, the temperature was raised to -30° C., and the mixture was stirred for 1 hour while maintaining the same temperature. The reaction mixture was cooled back to -78° C., and a mixed solvent solution containing 20.2 g of tricyclohexyltin chloride (50.1 mmol), 100 ml of hexane, and 50 ml of diethylether was added dropwise thereto. The temperature was raised back to -30° C., and the mixture was stirred for 12 hours at the same temperature. Upon completion of the reaction, 100 ml of water was added, and the organic substance was extracted three times, with 200 ml of diethylether for each. After the solvent was removed under reduced pressure, the oily product was purified by column chromatography on silica gel (for which, 50 g of silica gel, and a mixed solvent of hexane and diethylether, as a developing solvent, were employed) to yield 17.9 g of the final product (yield=73.0%).

reactant | o-bromo-1-phenylethanol | 50.2 mmol, 10.1 g | BrC1=C(C=CC=C1)C(C)O | C8H9BrO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | tricyclohexyltin chloride | 50.1 mmol, 20.2 g | C1(CCCCC1)[Sn](C1CCCCC1)(C1CCCCC1)Cl
solvent | water | 100 ml | O | H2O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexane | 64.5 ml | CCCCCC | C6H14
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | tricyclohexyl [o-(1-hydroxyethyl)phenyl]tin | 17.9 g, yield=73.0% | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)O)(C1CCCCC1)C1CCCCC1 | InChI=1S/C8H9O.3C6H11.Sn/c1-7(9)8-5-3-2-4-6-8;3*1-2-4-6-5-3-1;/h2-5,7,9H,1H3;3*1H,2-6H2;
